US04518596
8-(2-Chlorobenzyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(2-chlorobenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 178°-180° C.) and piperazine.

reactant | 2-chloro-8-(2-chlorobenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCC2=C(C=CC=C2)Cl)N2CCOCC2 | C17H15Cl2N5OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(2-Chlorobenzyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | ClC1=C(CSC2=NC=NC3=C2N=C(N=C3N3CCOCC3)N3CCNCC3)C=CC=C1 | C21H24ClN7OS
